US06479487B1
1-(2-(1-Piperidinyl)ethyl)-4-piperidone is prepared from 4-piperidone and 1-(2-chloroethyl)piperidine essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | 1-(2-chloroethyl)piperidine | ClCCN1CCCCC1 | C7H14ClN
product | 1-(2-(1-Piperidinyl)ethyl)-4-piperidone | N1(CCCCC1)CCN1CCC(CC1)=O | C12H22N2O
